US04008258
The acid chloride of 3,7,11-trimethyldodeca-2,4-dienoic acid (0.1 mole) is reacted with 0.2 mole of cyclopropylmethyl alcohol in benzene to yield cyclopropylmethyl 3,7,11-trimethyldodeca-2,4-dienoate.

reactant | 3,7,11-trimethyldodeca-2,4-dienoic acid | 0.1 mole | CC(=CC(=O)O)C=CCC(CCCC(C)C)C | C15H26O2
reactant | cyclopropylmethyl alcohol | 0.2 mole | C1(CC1)CO | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cyclopropylmethyl 3,7,11-trimethyldodeca-2,4-dienoate | CC(=CC(=O)OCC1CC1)C=CCC(CCCC(C)C)C | C19H32O2
